US08754100B2
Synthesis of 3-(2-trifluoromethylphenyl)pentanedioic acid
Piperidine (1.0 mL) was added to 2-trifluoromethylbenzaldehyde (5.0 g) and ethyl acetoacetate (7.27 mL) at 0° C. Then, the mixture was brought to room temperature and stirred for four days. Ethanol (50 mL) was added to the resulting reaction mixture, which was stirred with refluxing for five hours. Concentration under reduced pressure gave an oil. The resulting oil was simply purified by silica gel column chromatography (mobile phase:ethyl acetate/heptane=0 to 40%). Although the oil (7.81 g) contained a large amount of impurities, the oil was dissolved in ethanol (18.5 mL) and water (24.9 mL) to use the oil directly for the next reaction. Potassium hydroxide (32.7 g) was added and the reaction was initiated by heating under reflux. After 1.5 hours, the reaction mixture was partitioned with water and diethyl ether. The resulting aqueous layer was neutralized with concentrated hydrochloric acid (20 mL). Following extraction with methylene chloride twice, drying over magnesium sulfate and concentration under reduced pressure gave a yellow solid. The resulting crude product was recrystallized from ethyl acetate (30 mL) and heptane (65 mL) to obtain the title compound (1.2 g) as a white powder.

reactant | Piperidine | 1.0 mL | N1CCCCC1 | C5H11N
reactant | 2-trifluoromethylbenzaldehyde | 5.0 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | ethyl acetoacetate | 7.27 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | Potassium hydroxide | 32.7 g | [OH-].[K+]
reactant | Ethanol | 50 mL | C(C)O | C2H6O
product | 3-(2-trifluoromethylphenyl)pentanedioic acid | 1.2 g | FC(C1=C(C=CC=C1)C(CC(=O)O)CC(=O)O)(F)F | C12H11F3O4
